US09447090B2
To a solution of 2 g of methyl 3-cyclopropyl-3-oxopropanoate in 20 ml of dichloromethane was added dropwise 1.24 ml of sulfuryl chloride under ice-cooling, followed by stirring at room temperature for 5 hours. To the reaction mixture was added water under ice-cooling, and chloroform was further added thereto to carry out a layer separation operation. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to obtain 2.48 g of methyl 2-chloro-3-cyclopropyl-3-oxopropanoate.

reactant | methyl 3-cyclopropyl-3-oxopropanoate | 2 g | C1(CC1)C(CC(=O)OC)=O | C7H10O3
reactant | sulfuryl chloride | 1.24 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | water | O | H2O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | methyl 2-chloro-3-cyclopropyl-3-oxopropanoate | 2.48 g | ClC(C(=O)OC)C(=O)C1CC1 | C7H9ClO3
